US07423159B2
A mixture of 3-(4-nitrophenyl)propanethioamide (1.25 g), 1-bromo-2-butanone (0.98 g) and tert-butanol (30 mL) was heated under reflux for 30 min. The reaction mixture was concentrated, and saturated aqueous sodium hydrogen carbonate was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 4-ethyl-2-[2-(4-nitrophenyl)ethyl]-1,3-thiazole as a yellow oil (1.48 g, yield 95%) from a fraction eluted with hexane-ethyl acetate (4:1-2:1, v/v).

reactant | 3-(4-nitrophenyl)propanethioamide | 1.25 g | [N+](=O)([O-])C1=CC=C(C=C1)CCC(N)=S | C9H10N2O2S
reactant | 1-bromo-2-butanone | 0.98 g | BrCC(CC)=O | C4H7BrO
solvent | tert-butanol | 30 mL | C(C)(C)(C)O | C4H10O
product | 4-ethyl-2-[2-(4-nitrophenyl)ethyl]-1,3-thiazole | 1.48 g, yield 95% | C(C)C=1N=C(SC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C13H14N2O2S
